US05834499
To a solution of 910 mg of 2-[2-(1-nitrocyclohexyl)ethyl]-8H-indeno[1,2-d]thiazole in 10 ml of methanol were added 390 mg of iron(II) sulfate heptahydrate, 290 mg of iron reduced, 30 ml of water, and 1.5 g of concentrated sulfuric acid successively, followed by heating under reflux for 2 hours. The reaction mixture was poured into 1N hydrochloric acid, followed by extraction with ethyl acetate to remove unreacted starting materials. The aqueous layer was then neutralized, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, whereby 120 mg of yellow 2-[2-(1-aminocyclohexyl)ethyl]-8H-indeno[1,2-d]thiazole was obtained as a free base. Fumaric acid was added to the resulting compound in ethanol to cause crystallization, and the crystals were recrystallized to give a fumarate.

reactant | 2-[2-(1-nitrocyclohexyl)ethyl]-8H-indeno[1,2-d]thiazole | 910 mg | [N+](=O)([O-])C1(CCCCC1)CCC=1SC2=C(N1)C=1C=CC=CC1C2 | C18H20N2O2S
reactant | water | 30 ml | O | H2O
reactant | sulfuric acid | 1.5 g | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
catalyst | iron(II) sulfate heptahydrate | 390 mg | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
catalyst | iron | 290 mg | [Fe] | Fe
product | 2-[2-(1-aminocyclohexyl)ethyl]-8H-indeno[1,2-d]thiazole | 120 mg | NC1(CCCCC1)CCC=1SC2=C(N1)C=1C=CC=CC1C2 | C18H22N2S
